US06313122B1
Preparation of N-(4-methoxyphenyl)-2-[[1-(4-pyridyl)piperidin-4-ylcarbonyl]amino]benzamide
To a stirred suspension of N-(4-pyridyl)isonipecotic acid (0.2 g, 1 mmol) in dichloromethane (70 mL) was added thionyl chloride (0.11 mL, 1.5 mmol). After stirring overnight, the solvent was removed in vacuo and the residue was dissolved in dichloromethane (10 mL) and added to a stirred solution of 2-amino-N-(4-methoxyphenyl)benzamide (0.186 g, 0.77 mmol) and pyridine (0.19 g, 0.85 mmol) in dichloromethane (25 mL). After stirring for 72 h, the solution was transferred to a separatory funnel and washed with water, saturated aqueous sodium bicarbonate solution, and saturated aqueous sodium chloride solution. The organic phase was dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue was suspended in a mixture of diethyl ether and hexanes, sonicated, and filtered. The resulting solid was washed with diethyl ether and dried in vacuo to give 0.10 g (30%) of the title compound as a pale tan solid.

reactant | N-(4-pyridyl)isonipecotic acid | 1 mmol, 0.2 g | N1=CC=C(C=C1)N1CCC(C(=O)O)CC1 | C11H14N2O2
reactant | thionyl chloride | 1.5 mmol, 0.11 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-N-(4-methoxyphenyl)benzamide | 0.77 mmol, 0.186 g | NC1=C(C(=O)NC2=CC=C(C=C2)OC)C=CC=C1 | C14H14N2O2
reactant | pyridine | 0.85 mmol, 0.19 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-(4-methoxyphenyl)-2-[[1-(4-pyridyl)piperidin-4-ylcarbonyl]amino]benzamide | 0.10 g, 30% | COC1=CC=C(C=C1)NC(C1=C(C=CC=C1)NC(=O)C1CCN(CC1)C1=CC=NC=C1)=O | C25H26N4O3
